US07244729B2
(3-Chloro-benzyl)-{6-[4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-amine
(3-Chloro-benzyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine (150 mg, 0.35 mmol) is suspended in 5 ml dioxane and treated with N-ethyl-piperazine. The mixture is heated to 90° C. for 7 h. The solvent is evaporated and the residue is purified by flash chromatography on 34 g of silica gel. The column is eluted using a mixture of dichloromethane/methanol with gradually increasing concentrations of methanol starting with 100:1.25 and ending with 100:5 and then switching to dichloromethane/methanol/conc. ammonia starting with 100:5:0.25 and ending with 100:10:0.5. Fractions containing the title compound were pooled and concentrated on a rotary evaporator to give the title compound; m.p. 241-243° C.; MS-ES+: (M+H)+=461.

reactant | (3-Chloro-benzyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | 0.35 mmol, 150 mg | ClC=1C=C(CNC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)CCl)C=CC1 | C20H16Cl2N4
reactant | N-ethyl-piperazine | C(C)N1CCNCC1 | C6H14N2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (3-Chloro-benzyl)-{6-[4-(4-ethyl-piperazin-1-ylmethyl)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-amine | ClC=1C=C(CNC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)CN3CCN(CC3)CC)C=CC1 | C26H29ClN6
